US04507306
cis-2-Cyclopropylcarbonyl-1,2,3,4,4a,9b-hexahydro-4a-phenyl-benzofuro-[3,2-c]pyridine
To a solution of 3.77 g of cis-1,2,3,4,4a,9b-hexahydro-4a-phenyl-benzofuro[3,2-c]pyridine in 100 ml of chloroform containing 1.67 g of triethylamine was added dropwise with stirring under nitrogen a solution of 1.65 g of cyclopropane carbonyl chloride in 25 ml of chloroform. The reaction mixture was stirred at room temperature for 4 hours, diluted with 100 ml of chloroform and washed with 100 ml of 2N HCl and 100 ml of 10% aqueous NaOH. The organic layer was dried over anhydrous Na2SO4 and evaporated in vacuo to afford 4.70 g (98.1%) of a glass.

reactant | cis-1,2,3,4,4a,9b-hexahydro-4a-phenyl-benzofuro[3,2-c]pyridine | 3.77 g | C1(=CC=CC=C1)[C@@]12[C@@H](CNCC1)C1=C(O2)C=CC=C1 | C17H17NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | cyclopropane carbonyl chloride | 1.65 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | chloroform | 100 ml, 1.67 g | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | cis-2-Cyclopropylcarbonyl-1,2,3,4,4a,9b-hexahydro-4a-phenyl-benzofuro-[3,2-c]pyridine | 4.70 g, 98.1% | C1(CC1)C(=O)N1C[C@@H]2[C@](CC1)(OC1=C2C=CC=C1)C1=CC=CC=C1 | C21H21NO2
